US07871998B2
N-({4-[(2R,3R)-1-(4-fluorophenyl)-3-({2-hydroxy-2-[4-(methylthio)phenyl]ethyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-3-methyl-D-valine
To a solution of {4-[(2R,3R)-1-(4-fluorophenyl)-3-({2-hydroxy-2-[4-(methylthio)phenyl]ethyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetic acid (0.020 g, 0.039 mmol) and NMM (0.020 ml, 0.182 mmol) in DMF (3 ml) at RT was added TBTU (0.020 g, 0.062 mmol). The reaction mixture was stirred for 60 min after which glycyl-3-methyl-D-valine (0.008 g, 0.043 mmol) was added. The mixture was stirred for 18 h before the reaction was quenched by the addition of water (1 ml). The mixture was diluted with MeOH (1 ml) and NaBH4 (0.040 g, 1.06 mmol) was added. After 10 min the reaction was quenched by the addition of a 0.1M ammonium acetate buffer (2 ml) and most of the methanol was removed under reduced pressure. The remaining solution was purified by preparative HPLC using a gradient of 20-60% MeCN in a 0.1M ammonium acetate buffer as eluent. Freeze-drying of the pure fractions gave the desired product as a white solid (0.006 g, 22% yield).

reactant | {4-[(2R,3R)-1-(4-fluorophenyl)-3-({2-hydroxy-2-[4-(methylthio)phenyl]ethyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetic acid | 0.039 mmol, 0.020 g | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(C1=CC=C(C=C1)SC)O)C1=CC=C(OCC(=O)O)C=C1 | C26H24FNO5S2
reactant | NMM | 0.182 mmol, 0.020 ml | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.062 mmol, 0.020 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | glycyl-3-methyl-D-valine | 0.043 mmol, 0.008 g | NCC(=O)N[C@H](C(C)(C)C)C(=O)O | C8H16N2O3
reactant | NaBH4 | 1.06 mmol, 0.040 g | [BH4-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 1 ml | CO | CH4O
product | N-({4-[(2R,3R)-1-(4-fluorophenyl)-3-({2-hydroxy-2-[4-(methylthio)phenyl]ethyl}thio)-4-oxoazetidin-2-yl]phenoxy}acetyl)glycyl-3-methyl-D-valine | 0.006 g, 22% yield | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(C1=CC=C(C=C1)SC)O)C1=CC=C(OCC(=O)NCC(=O)N[C@H](C(C)(C)C)C(=O)O)C=C1 | C34H38FN3O7S2
